US07846929B2
2-Chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine (150 mg), 90 μL of 2-pyrrolidinone, potassium phosphate tribasic (250 mg), copper iodide (7 mg), 4 μL of N,N-dimethylethylenediamine in 2 mL of 1,4-dioxane was heated to 100° C. for 16 h. The reaction mixture was evaporated and the residue was diluted with ethyl acetate (60 mL), washed with brine (30 mL), dried over MgSO4, filtered and evaporated. The crude product was purified on reverse phase HPLC to give 53 mg of 1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyrrolidin-2-one.

reactant | 2-Chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine | 150 mg | ClC=1N=C(C2=C(N1)C=C(S2)I)N2CCOCC2 | C10H9ClIN3OS
reactant | 2-pyrrolidinone | 90 μL | N1C(CCC1)=O | C4H7NO
reactant | potassium phosphate tribasic | 250 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N-dimethylethylenediamine | 4 μL | CN(CCN)C | C4H12N2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 7 mg | [Cu](I)I
product | 1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyrrolidin-2-one | 53 mg | ClC=1N=C(C2=C(N1)C=C(S2)N2C(CCC2)=O)N2CCOCC2 | C14H15ClN4O2S
